US05631275
4.53 g (30 mmol) of 4-methoxy-β-phenylethylamine are added dropwise to a solution of 2.96 g (10.0 mmol) of triphosgene in 30 ml of dry tetrahydrofuran and the mixture is heated at the boiling point for 2 hours. The solution is cooled to room temperature and filtered and the filtrate is concentrated in vacuo. The colorless oil which remains is purified by bulb tube distillation under a pressure of 2 mmHg at a bath temperature of 220° C. to give 1.1 g of 4-methoxy-β-phenylethyl isocyanate. 0.7 g (4.0 mmol) of 4-methoxy-β-phenylethyl isocyanate and 0.4 g (3.5 mmol) of 3-ethyl-4-methyl-2-oxo-3-pyrroline are stirred with one another and the mixture is heated at 150° C. for one hour. The cooled reaction mixture is dissolved in a minimum of ethyl acetate and purified by column chromatography over silica gel 60 with the aid of the mobile phase ethyl acetate (RF =0.5). After the eluent has been evaporated off under reduced pressure, 0.25 g of methoxy-4-[2-(3-ethyl-4-methyl-2-oxo-3-pyrrolinyl-1-carboxamido)-ethyl]-benzene is obtained, and is introduced in portions into chlorosulfonic acid cooled to 0° C. After being stirred at 0° C. for one hour, this reaction mixture is poured onto ice. The sulfonic acid chloride which has precipitated is taken up in ethyl acetate. The organic phase is dried with sodium sulfate and concentrated in vacuo to give the sulfonic acid chloride as a crude product, which is dissolved in acetone and converted into 2-methoxy-5-[2-(3-ethyl-4-methyl-2-oxo-3-pyrrolinyl-1-carboxamido)-ethyl]-benzenesulfonamide with aqueous ammonia solution. The sulfonamide has a melting point of 204°-205° C.

reactant | 4-methoxy-β-phenylethylamine | 30 mmol, 4.53 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | triphosgene | 10.0 mmol, 2.96 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-methoxy-β-phenylethyl isocyanate | 1.1 g | COC1=CC=C(C=C1)CCN=C=O | C10H11NO2
